US08314101B2
In a 500 mL three-necked flask were placed 30 g (82 mmol) of 4,4′-dibromobenzil, 9.3 g (86 mmol) of 1,2-phenylenediamine, and 300 mL of chloroform, which were refluxed under nitrogen stream at 80° C. for 5 hours. After a predetermined time, the solution was cooled to room temperature, and there was added water. The aqueous layer was extracted with chloroform, and the extract and the organic layer were dried together over magnesium sulfate. After drying, the mixture was subjected to suction filtration, and the filtrate was condensed. The obtained solid was dissolved in toluene, and the solution was subjected to suction filtration through Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and alumina. The filtrate was condensed; thus, 30 g of target white powder of 2,3-bis(4-bromophenyl)quinoxaline was obtained with a yield of 99%.

reactant | 4,4′-dibromobenzil | 82 mmol, 30 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | 1,2-phenylenediamine | 86 mmol, 9.3 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-bis(4-bromophenyl)quinoxaline | yield of 99% | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2N=C1C1=CC=C(C=C1)Br | C20H12Br2N2
